US07276508B2
6b, 7-Chloro-3-{1-[3-(3,4-dihydro-1H-isoquinolin-2-yl)-3-oxopropan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride
from 7-chloro-3-(piperidin-4-yl)-1H-indole and 3-bromo-1-(3,4-dihydro-1H-isoquinolin-2-yl)propan-1-one. 1H NMR (DMSO-d6): 2.05-2.25 (m, 4H); 2.80 (t, 0.8H); 2.95 (t, 1.2H); 3.00-3.20 (m, 5H); 3.30-3.45 (m, 2H); 3.55-3.65 (m, 2H); 3.65-3.75 (m, 2H); 4.65 (s, 1.2H); 4.75 (s, 0.8H); 7.00 (t, 1H); 7.15-7.25 (m, 6H); 7.70 (d, 1H); 10.70 (broad s, 1H); 11.30 (s, 1H). MS m/z: 422 (MH+), 247.

reactant | 7-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=CC=C2C(=CNC12)C1CCNCC1 | C13H15ClN2
reactant | 3-bromo-1-(3,4-dihydro-1H-isoquinolin-2-yl)propan-1-one | BrCCC(=O)N1CC2=CC=CC=C2CC1 | C12H14BrNO
product | 7-Chloro-3-{1-[3-(3,4-dihydro-1H-isoquinolin-2-yl)-3-oxopropan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride | Cl.ClC=1C=CC=C2C(=CNC12)C1CCN(CC1)CCC(=O)N1CC2=CC=CC=C2CC1 | InChI=1S/C25H28ClN3O.ClH/c26-23-7-3-6-21-22(16-27-25(21)23)19-8-12-28(13-9-19)14-11-24(30)29-15-10-18-4-1-2-5-20(18)17-29;/h1-7,16,19,27H,8-15,17H2;1H
